US09193741B2
1-(4-(2-amino-8-(4-bromophenyl)-9H-purin-6-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone
This compound was synthesized from 2,5,6-triamino-4-[4-(4-chlorophenoxyacetyl)piperazin-1-yl]pyrimidine and 4-bromobenzaldehyde in 74% yield.

reactant | 2,5,6-triamino-4-[4-(4-chlorophenoxyacetyl)piperazin-1-yl]pyrimidine | NC1=NC(=C(C(=N1)N1CCN(CC1)C(COC1=CC=C(C=C1)Cl)=O)N)N | C16H20ClN7O2
reactant | 4-bromobenzaldehyde | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | 1-(4-(2-amino-8-(4-bromophenyl)-9H-purin-6-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone | 74% yield | NC1=NC(=C2N=C(NC2=N1)C1=CC=C(C=C1)Br)N1CCN(CC1)C(COC1=CC=C(C=C1)Cl)=O | C23H21BrClN7O2
